Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:8]([O:7])([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][O:7][C:8]1([H:9])[H:10],2.90746279098
[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-3.75966642557
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]#[C:8][H:9])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],-2.33761163528
[C:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[H:1]>>[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-3.66381175177
[H:16].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.56667637308
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[O:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13],0.164886910039
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:8]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:7],3.88494044543
[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][C:3]([H:4])=[C:5]=[O:6]>>[O:1]=[C:2][C:3]([H:4])([C:5]=[O:6])[C:7]([H:8])([H:9])[H:10],-1.1246482459
[H:7].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10][O:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[O:11][H:12],-3.0949870880000003
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:4].[O:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],5.0463066134500005
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:14].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:15]([H:16])([H:17])[H:18],1.74350210069
[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[O:1]=[C:2][C:7]([H:8])([H:9])[C:10][H:11].[O:3]=[C:4]([H:5])[H:6],1.26387584308
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]#[C:7]>>[C:1]#[C:2][O:5][C:6]#[C:7].[O:3][H:4],4.8389364364
[H:1].[O:2][C@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.54815943882
[C:1]([O:3][H:4])([H:6])[H:7].[C:2]#[C:5][O:8][H:9]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][H:9],-2.94436133182
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:5],1.58119824699
[C:4]=[C:5]([H:6])[H:7].[H:1][O:2][C:3]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],-4.841520395880001
[C:3](=[O:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]>>[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],0.63551825312
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.61401234861
[C:1][C:2]1=[C:3]([C:4]([H:5])=[C:6][H:7])[C:8]1>>[C:1]#[C:2][C:8]#[C:3][C:4]([H:5])=[C:6][H:7],-1.33480578025
[C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[O:11][H:12],-5.02192722687
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:11]([C:9](=[C:7][H:8])[H:10])([H:12])[H:13]>>[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[C:11]1([H:12])[H:13],-1.48537770778
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.56635572391
[H:1][O:2][C:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.4751890795500002
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10],0.83735180875
[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.92592533125
[H:1][O:2][C:3][C:4]([C:5][O:6][H:7])=[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3][C:4]#[C:5][O:6][H:7],3.99874684216
[C:5]([H:6])([H:7])[H:8].[H:1][C:2](=[C:3]=[O:4])[C:9]([H:10])([H:11])[H:12]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],0.13097507166
[H:1]/[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])[H:8].[H:1]/[C:2]([O:3][C:4])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],3.55866620568
